US07601844B2
Step 1: (R)-2-(3-(Ethoxycarbonyl)phenylamino)-3-methylbutanoic acid
Ethyl 3-iodobenzoate (857 mg, 3.10 mmol), DMF (5 mL), copper(I) iodide (65 mg, 0.34 mmol), N1,N2-dimethylaminoethylene (62.9 mg, 0.714 mmol), D-valine (400 mg, 3.41 mmol) and potassium carbonate (429 mg, 3.10 mmol) were charged into a flask. The flask was evacuated, then filled with nitrogen over several cycles to remove oxygen, then the reaction was heated to 140° C. under nitrogen for 4 hrs. The reaction was cooled, the DMF removed by evaporation, and 1 N HCl added. The reaction mixture was partitioned between EtOAc and water, and the organic layer was dried over sodium sulfate, filtered, and concentrated to yield a brown oil. This was used in next step without further purification.

reactant | Ethyl 3-iodobenzoate | 3.10 mmol, 857 mg | IC=1C=C(C(=O)OCC)C=CC1 | C9H9IO2
reactant | D-valine | 3.41 mmol, 400 mg | N[C@H](C(C)C)C(=O)O | C5H11NO2
reactant | potassium carbonate | 3.10 mmol, 429 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | copper(I) iodide | 0.34 mmol, 65 mg | [Cu]I
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (R)-2-(3-(Ethoxycarbonyl)phenylamino)-3-methylbutanoic acid | C(C)OC(=O)C=1C=C(C=CC1)N[C@@H](C(=O)O)C(C)C | C14H19NO4
